US05663053
A mixture of 1,4,5-triphenylimidazol-2-one (6.25 g), dibromohexane (24.4 g) and potassium carbonate (5.53 g) in dry butanone (300 ml) was heated at reflux temperature for 24 hours. The mixture was cooled and the flitrate evaporated to an oil which was chromatographed on silica gel (hexaneyethyl acetate) to give 1,4,5-triphenyl-2-(6-bromohexyloxy)-imidazole (2.8 g, 29%) as a white solid, m.p. 87°-9° C.

reactant | 1,4,5-triphenylimidazol-2-one | 6.25 g | C1(=CC=CC=C1)N1C(NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H16N2O
reactant | dibromohexane | 24.4 g | BrC(CCCCC)Br | C6H12Br2
reactant | potassium carbonate | 5.53 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 300 ml | CC(CC)=O | C4H8O
product | 1,4,5-triphenyl-2-(6-bromohexyloxy)-imidazole | 2.8 g, 29% | C1(=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)OCCCCCCBr | C27H27BrN2O
